### PR TITLE
Golf Jacobi theta related code

### PR DESCRIPTION
**Pull request by seewoo5**
## Summary
- move the generic slash-action MDiff infrastructure into SpherePacking.ForMathlib.SlashActions
- remove the corresponding generic lemmas from SpherePacking.ModularForms.Derivative
- make JacobiTheta.MDifferentiable depend directly on the new slash-action infrastructure

## Dependency
This PR depends on #390 and should be reviewed after that PR lands.

## Testing
- lake build SpherePacking.ModularForms.JacobiTheta.MDifferentiable SpherePacking.ModularForms.JacobiTheta.Derivative SpherePacking

### CODE REVIEW

File: SpherePacking/ModularForms/JacobiTheta/MDifferentiable.lean [hunk 1]
```diff
@@ -21,118 +22,37 @@ local notation "Γ " n:100 => CongruenceSubgroup.Gamma n
...
-lemma differentiableAt_jacobiTheta₂_half (τ : ℍ) :
-    DifferentiableAt ℂ (fun t : ℂ => jacobiTheta₂ (t / 2) t) ↑τ := by
-  let f : ℂ → ℂ × ℂ := fun t => (t / 2, t)
-  have hf : DifferentiableAt ℂ f ↑τ :=
-    (differentiableAt_id.mul_const ((2 : ℂ)⁻¹)).prodMk differentiableAt_id
-  have hg : DifferentiableAt ℂ (fun p : ℂ × ℂ => jacobiTheta₂ p.1 p.2) (f ↑τ) := by
-    simpa [f] using (hasFDerivAt_jacobiTheta₂ ((τ : ℂ) / 2) τ.2).differentiableAt
-  simpa [f] using (DifferentiableAt.comp (x := (τ : ℂ)) hg hf)
-
-lemma Θ₂_MDifferentiable : MDiff Θ₂ := by
```
Comment (seewoo5) [inline SpherePacking/ModularForms/JacobiTheta/MDifferentiable.lean:126]: I removed these since they are not used.

File: SpherePacking/ForMathlib/SlashActions.lean [hunk 2]
```diff
@@ -41,3 +43,82 @@ theorem ModularForm.slash_neg' {k : ℤ} (g : SL(2, ℤ)) (f : ℍ → ℂ) (hk
...
+  simp only [num]
+  fun_prop
+
+end SlashActionDifferentiableHelpers
+
+/--
+Slash action by an element of `SL(2, ℤ)` preserves `MDifferentiable`.
+-/
+@[fun_prop]
+theorem MDifferentiable.slash_SL2 {F : ℍ → ℂ} (hF : MDiff F) (k : ℤ) (γ : SL(2, ℤ)) :
```
Comment (thefundamentaltheor3m) [inline SpherePacking/ForMathlib/SlashActions.lean]: Use [`MDifferentiable.slash`](https://github.com/leanprover-community/mathlib4/blob/cc9c9b783856525faeb0001e6e53a0887c58f58c/Mathlib/NumberTheory/ModularForms/Basic.lean#L63-L68)

Comment (seewoo5) [reply SpherePacking/ForMathlib/SlashActions.lean]: Done!

File: SpherePacking/ModularForms/JacobiTheta/Basic.lean [hunk 3]
```diff
@@ -31,50 +31,38 @@ lemma H₂_T_action : (H₂ ∣[(2 : ℤ)] T) = -H₂ := by
...
+  rw [coe_vadd, ofReal_one, ← Complex.exp_add]
+  have h : Even (b ^ 2 + b) := by
+    convert Int.even_mul_succ_self b using 1
+    ring
+  have harg : (↑π * I * (↑b + 1 / 2) ^ 2 * (1 + ↑x) : ℂ)
+      = ↑π * I / 4 + (↑(b ^ 2 + b) * (↑π * I) +
+        ↑π * I * (↑b + 1 / 2) ^ 2 * ↑x) := by
+    push_cast
+    ring
+  rw [harg]
```
Comment (thefundamentaltheor3m) [inline SpherePacking/ModularForms/JacobiTheta/Basic.lean]: We can now use `show ... by`

File: SpherePacking/ModularForms/JacobiTheta/Basic.lean [hunk 4]
```diff
@@ -99,69 +87,39 @@ lemma H₄_α_action : (H₄ ∣[(2 : ℤ)] α.1) = H₄ := by
...
+    field_simp
+  linear_combination hexp * (1 / (-1 * x⁻¹ ^ 2) * x ^ (-2 : ℤ) * jacobiTheta₂ (1 / 2) x ^ 4) +
+    hzpow * jacobiTheta₂ (1 / 2) x ^ 4
 
 lemma H₃_S_action : (H₃ ∣[(2 : ℤ)] S) = -H₃ := by
   ext x
-  have hx' : (x : ℂ) ≠ 0 := by obtain ⟨x, hx⟩ := x; change x ≠ 0; simp [Complex.ext_iff, hx.ne.symm]
   have := jacobiTheta₂_functional_equation 0
   simp [-one_div] at this
   simp [modular_slash_S_apply, Pi.neg_apply, H₃, Θ₃_as_jacobiTheta₂]
```
Comment (thefundamentaltheor3m) [inline SpherePacking/ModularForms/JacobiTheta/Basic.lean]: why do we have nonterminal `simp`s?

File: SpherePacking/ModularForms/JacobiTheta/Basic.lean [hunk 5]
```diff
@@ -276,41 +220,32 @@ theorem isBoundedAtImInfty_H₂ : IsBoundedAtImInfty H₂ := by
...
-      norm_cast at this
-      exact Int.not_odd_iff_even.mpr (even_two_mul b) (by rw [this]; simp)
-    convert (mul_le_mul_iff_right₀ (mul_pos pi_pos (sq_pos_of_ne_zero this))).mpr hz using 1
-    rw [mul_one]
-  · apply Summable.norm
-    apply summable_ofReal.mp
+    refine Real.exp_monotone ?_
+    have hb : (b : ℝ) + 1 / 2 ≠ 0 := fun h ↦ by
+      have : (2 * b + 1 : ℤ) = 0 := by exact_mod_cast (show (2 * b + 1 : ℝ) = 0 by linarith)
+      omega
```
Comment (thefundamentaltheor3m) [inline SpherePacking/ModularForms/JacobiTheta/Basic.lean]: Can we somehow get rid of this nested `have`?

File: SpherePacking/ModularForms/JacobiTheta/Basic.lean [hunk 6]
```diff
@@ -460,40 +386,45 @@ theorem jacobiTheta₂_half_mul_apply_tendsto_atImInfty :
...
+    · exact le_of_eq (by simpa [add_mul] using by ring_nf)
     · rw [norm_exp_mul_I, im_ofReal_mul]
       have (n : ℤ) : 0 ≤ (n : ℝ) ^ 2 + n := by
         nth_rw 2 [← mul_one n]
         rw [sq, Int.cast_mul, Int.cast_one, ← mul_add]
         rcases lt_trichotomy (-1) n with (hn | rfl | hn)
-        · apply mul_nonneg <;> norm_cast; omega
+        · apply mul_nonneg
+          · exact_mod_cast (by omega : 0 ≤ n)
+          · exact_mod_cast (by omega : 0 ≤ n + 1)
```
Comment (thefundamentaltheor3m) [inline SpherePacking/ModularForms/JacobiTheta/Basic.lean]: Does `apply mul_nonneg <;> exact_mod_cast <| by omega` not work?

File: SpherePacking/ModularForms/JacobiTheta/Basic.lean [hunk 7]
```diff
@@ -746,106 +634,52 @@ Proof strategy: Each term exp(-π(n+1/2)²t) > 0, so Θ₂(it) > 0, hence H₂ =
...
+  have hSlash := ResToImagAxis.SlashActionS H₄ 2 ht'
+  rw [H₄_S_action] at hSlash
+  have hI2 : (I : ℂ) ^ (-2 : ℤ) = -1 := by
+    change (I ^ 2)⁻¹ = -1
+    rw [I_sq]
+    norm_num
+  have h1t2 : (↑(1 / t : ℝ) : ℂ) ^ (-2 : ℤ) = (t : ℂ) ^ 2 := by
+    have : (t : ℂ) ≠ 0 := ofReal_ne_zero.mpr ht.ne'
+    simp only [one_div, ofReal_inv, _root_.zpow_neg]
+    field_simp
```
Comment (thefundamentaltheor3m) [inline SpherePacking/ModularForms/JacobiTheta/Basic.lean]: Can we get rid of the nested `have`s? The anonymous one diesn't seem to be serving any real purpose

File: SpherePacking/ModularForms/JacobiTheta/JacobiIdentity.lean [hunk 8]
```diff
@@ -211,71 +187,58 @@ private lemma theta_prod_sq_proportional :
...
         field_simp
       simp_rw [h_rewrite]
       have : (256 : ℂ) = 16 ^ 2 * 1 ^ 2 * 1 ^ 2 := by norm_num
       rw [this]
-      exact ((H₂_div_exp_tendsto.pow 2).mul (H₃_tendsto_atImInfty.pow 2)).mul
-        (H₄_tendsto_atImInfty.pow 2)
+      have := H₂_div_exp_tendsto
+      have := H₃_tendsto_atImInfty
+      have := H₄_tendsto_atImInfty
+      tendsto_cont
```
Comment (thefundamentaltheor3m) [inline SpherePacking/ModularForms/JacobiTheta/JacobiIdentity.lean]: Maybe we can now use the argument-supporting version of `tendsto_cont`

**Review by thefundamentaltheor3m — CHANGES_REQUESTED** [review]

**Comment by seewoo5** [comment]
Additional golf with `cleanup` is done in #443 and merged into here.
